US05468722
A one-liter, three-necked flask was charged with 0 g (0.4 mol) of m-toluenethiol, 29 g (0.4 mol) of acrylic acid and 1.0 ml of triethylamine and the mixture was allowed to react at 150° C. for 1 hour. After the reaction mixture was allowed to cool, 200 ml of acetic acid was added to the reaction mixture, and the mixture was heated up to 50° C. to form a complete solution. Then, 21 ml of bromine was gradually added over 30 minutes, and the mixture was further allowed to react at 50° to 50° C. for 1 hour. After the reaction was completed, the reaction mixture was poured into 1.5 liters of a 1% sodium hydrogensulfite aqueous solution, and the formed solid was recovered by filtration and dried to give 110 g of 3-(4-bromo-3-methylphenylthio)propionic acid as a crude product.

reactant | m-toluenethiol | 0.4 mol, 0 g | C1(=CC(=CC=C1)S)C | C7H8S
reactant | acrylic acid | 0.4 mol, 29 g | C(C=C)(=O)O | C3H4O2
reactant | bromine | 21 ml | BrBr | Br2
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
product | 3-(4-bromo-3-methylphenylthio)propionic acid | 110 g | BrC1=C(C=C(C=C1)SCCC(=O)O)C | C10H11BrO2S
